US08865713B2
Step B: 6-chloro-5-pyrrolidin-1-yl-1H-benzoimidazole.
Formic acid (2.9 mL) was added to a mixture of 4-chloro-2-nitro-5-pyrrolidin-1-yl-phenylamine (0.240 g, 1.00 mmol) and SnCl2.H2O (0.680 g, 3.00 mmol), and the mixture was heated to 130° C. in a microwave reactor for 5 min. Six reactions were performed on the same scale. The combined crude mixture was filtered and washed with EtOAc (100 mL). The organic layer was treated with water (25 mL) and neutralized with aqueous 6M NaOH. The aqueous layer was extracted with EtOAc (3×30 mL). The combined organic layers were washed with brine (50 mL), dried, filtered, and concentrated under reduced pressure. The residue was triturated with EtOAc and the solid was collected to yield the titled compound (1.08 g, 70%) as the formate salt. MS (ESI/CI): mass calcd. for C11H12ClN3, 221.1; m/z found, 222.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 12.84-12.16 (br s, 1H), 8.13 (s, 1H), 8.11 (s, 1H), 7.59 (s, 1H), 7.20 (s, 1H), 3.20 (t, J=6.3 Hz, 4H), 2.06-1.66 (m, 4H).

reactant | 4-chloro-2-nitro-5-pyrrolidin-1-yl-phenylamine | 1.00 mmol, 0.240 g | ClC1=CC(=C(C=C1N1CCCC1)N)[N+](=O)[O-] | C10H12ClN3O2
reactant | SnCl2.H2O | 3.00 mmol, 0.680 g | Cl[Sn]Cl.O
reactant | Formic acid | 2.9 mL | C(=O)O | CH2O2
product | 6-chloro-5-pyrrolidin-1-yl-1H-benzoimidazole | 1.08 g, 70% | ClC=1C(=CC2=C(NC=N2)C1)N1CCCC1 | C11H12ClN3
